US09193693B2
Step 4. 3-(4-(3-Chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
A solution of methyl 3-(4-(3-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate (186.7 mg, 0.41 mmol, 1.00 equiv) and sodium hydroxide (82 mg, 2.05 mmol, 5.00 equiv) in tetrahydrofuran/MeOH (1:1) (25 mL) was placed in a 50-mL round bottom flask, stirred for 8 h at 50° C. in an oil bath, and then concentrated under vacuum. This resulted in 177.7 mg (95%) of 3-(4-(3-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(3-chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.41 mmol, 186.7 mg, 1.00 equiv | ClC=1C=C(C=CC1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H23ClN4O2
reactant | sodium hydroxide | 2.05 mmol, 82 mg, 5.00 equiv | [OH-].[Na+]
solvent | tetrahydrofuran MeOH | 25 mL | O1CCCC1.CO
product | 3-(4-(3-Chlorophenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | ClC=1C=C(C=CC1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C25H21ClN4O2
